US07989449B2
(RS)-4-(3-Bromo-phenyl)-4-(2,3-dihydro-benzofuran-5-yl)-4,5-dihydro-oxazol-2-ylamine (Building Block K)
According to general method 2, a solution of iodine in ethyl acetate was added to a mixture of 5-[1-(3-bromo-phenyl)-vinyl]-2,3-dihydro-benzofuran (3.5 g, 11.6 mmol) and silver cyanate in ethyl acetate/acetonitrile. The crude product of this reaction was subsequently reacted with aqueous ammonia (30% by Vol). Purification by SCX column yielded 1.5 g of product (37%).

reactant | iodine | II | I2
reactant | 5-[1-(3-bromo-phenyl)-vinyl]-2,3-dihydro-benzofuran | 11.6 mmol, 3.5 g | BrC=1C=C(C=CC1)C(=C)C=1C=CC2=C(CCO2)C1 | C16H13BrO
reactant | ammonia | N | H3N
reactant | ethyl acetate acetonitrile | C(C)(=O)OCC.C(C)#N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | silver cyanate | [Ag]OC#N
product | (RS)-4-(3-Bromo-phenyl)-4-(2,3-dihydro-benzofuran-5-yl)-4,5-dihydro-oxazol-2-ylamine | 1.5 g, 37% | BrC=1C=C(C=CC1)C1(N=C(OC1)N)C=1C=CC2=C(CCO2)C1 | C17H15BrN2O2
